US07291631B2
Using General Procedure B, reaction of 3-(tert-Butyldimethylsilanyloxymethyl)-pyridine-2-carbaldehyde, 2-[4-(5,6,7,8-Tetrahydroquinolin-8-ylamino)-butyl]-isoindole-1,3-dione and NaBH(OAc)3 in CH2Cl2 gave 2-{4-[[3-(tert-Butyldimethylsilanyloxymethyl)-pyridin-2-ylmethyl]-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione as a light brown solid. 1H NMR (CDCl3) δ 0.11 (s, 6H), 0.95 (s, 9H), 1.31 (m, 2H), 1.49 (quintet, 2H, J=7.5 Hz), 1.59 (m, 1H), 1.85-2.08 (m, 3H), 2.47 (m, 1H), 2.59 (m, 2H), 2.67 (m, 1H), 3.49 (t, 2H, J=7.5 Hz), 3.90 (m, 1H), 3.96 (d, 1H, J=12.0 Hz), 4.11 (d, 1H, J=12.0 Hz), 4.98 (d, 1H, J=15.0 Hz), 5.20 (d, 1H, J=15.0 Hz), 6.99 (m, 1H), 7.13 (m, 1H), 7.28 (d, 1H, J=7.5 Hz), 7.68 (m, 2H), 7.80 (m, 2H), 7.82 (d, 1H, J=7.5 Hz), 8.32 (d, 1H, J=3.0 Hz), 8.42 (d, 1H, J=3.0 Hz).

reactant | 3-(tert-Butyldimethylsilanyloxymethyl)-pyridine-2-carbaldehyde | [Si](C)(C)(C(C)(C)C)OCC=1C(=NC=CC1)C=O | C13H21NO2Si
reactant | 2-[4-(5,6,7,8-Tetrahydroquinolin-8-ylamino)-butyl]-isoindole-1,3-dione | N1=CC=CC=2CCCC(C12)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C21H23N3O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-{4-[[3-(tert-Butyldimethylsilanyloxymethyl)-pyridin-2-ylmethyl]-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione | [Si](C)(C)(C(C)(C)C)OCC=1C(=NC=CC1)CN(CCCCN1C(C2=CC=CC=C2C1=O)=O)C1CCCC=2C=CC=NC12 | C34H44N4O3Si
